US07582626B2
a) cis-2-Amino-cycloheptanecarboxylic acid methyl ester hydrochloride
cis-2-Amino-cycloheptanecarboxylic acid hydrochloride (0.75 g, 3.89 mmol) was dissolved in methanol (5 mL). Benzene (7.5 mL) was added followed by the dropwise addition of a 2.0 M solution of (trimethylsilyl)diazomethane in dichloromethane (3.5 mL). The yellow solution continued to stir at 25° C. for 20 min. The solution was concentrated in vacuo to afford a yellow powder. The powder was suspended in methanol (20 mL) and concentrated in vacuo to afford the desired product, cis-2-amino-cycloheptanecarboxylic acid methyl ester hydrochloride (0.8 g, 3.86 mmol, 99%), as a white powder. 1H NMR (400 MHz, D2O) δ: 1.33-1.86 (8H, m), 2.60-2.62 (1H, m), 2.75-2.78 (1H, m), 3.27-3.30 (1H, m), 3.39-3.44 (1H, m), 3.62 (3H, s).

reactant | cis-2-Amino-cycloheptanecarboxylic acid hydrochloride | 3.89 mmol, 0.75 g | Cl.N[C@@H]1[C@@H](CCCCC1)C(=O)O
reactant | Benzene | 7.5 mL | C1=CC=CC=C1 | C6H6
reactant | (trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | 3.5 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | cis-2-amino-cycloheptanecarboxylic acid methyl ester hydrochloride | 3.86 mmol, 0.8 g, 99% | Cl.COC(=O)[C@H]1[C@H](CCCCC1)N | InChI=1S/C9H17NO2.ClH/c1-12-9(11)7-5-3-2-4-6-8(7)10;/h7-8H,2-6,10H2,1H3;1H/t7-,8+;/m1./s1
